US07273878B2
To 10 ml of N,N-dimethylformamide were dissolved 0.29 g (1.1 mmol) of 8,8-difluoro-7-methyl-7-octenyl methanesulfonate and 0.26 g (1.5 mmol) of benzo[b]thiophene-2-carboxylic acid, followed by the addition of 0.28 g (3.3 mmol) of sodium hydrogencarbonate and stirring at 100° C. for 3 hours. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (diisopropyl ether:hexane=1:8) to obtain 0.27 g (yield: 71%) of 8,8-difluoro-7-methyl-7-octenyl benzo[b]thiophene-2-carboxylate.

reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | 8,8-difluoro-7-methyl-7-octenyl methanesulfonate | 1.1 mmol, 0.29 g | CS(=O)(=O)OCCCCCCC(=C(F)F)C | C10H18F2O3S
reactant | benzo[b]thiophene-2-carboxylic acid | 1.5 mmol, 0.26 g | S1C2=C(C=C1C(=O)O)C=CC=C2 | C9H6O2S
reactant | sodium hydrogencarbonate | 3.3 mmol, 0.28 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 8,8-difluoro-7-methyl-7-octenyl benzo[b]thiophene-2-carboxylate | 0.27 g, yield: 71% | S1C2=C(C=C1C(=O)OCCCCCCC(=C(F)F)C)C=CC=C2 | C18H20F2O2S
